US08957068B2
(S)-(4-(1-aminoethyl)-3-fluorophenyl)methanol
To a cooled (0° C.) suspension of (S)-methyl 4-(1-aminoethyl)-3-fluorobenzoate hydrochloride (0.109 g, 0.468 mmol) in THF (15 mL) was added a solution of LAH in THF (2.0 M, 1.05 mL, 2.10 mmol, 4.49 equiv) and the resulting mixture was stirred at 0° C. for 2 h 20 min and at room temperature for 2½ h. The reaction mixture was quenched by addition of a mixture of Na2SO4 decahydrate and Celite (1:1 by weight) until gas evolution ceased. The reaction mixture was filtered, washed with EtOAc. The filtrate was concentrated and used for the next reaction without purification.

reactant | (S)-methyl 4-(1-aminoethyl)-3-fluorobenzoate hydrochloride | 0.468 mmol, 0.109 g | Cl.N[C@@H](C)C1=C(C=C(C(=O)OC)C=C1)F
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 2.10 mmol, 2.0 M, 1.05 mL, 4.49 equiv | C1CCOC1 | C4H8O
product | (S)-(4-(1-aminoethyl)-3-fluorophenyl)methanol | N[C@@H](C)C1=C(C=C(C=C1)CO)F | C9H12FNO
